US06369254B1
Fluorene-1-carboxylic acid was purchased from Aldrich. It was reduced as described in J. Am. Chem. Soc. 1961, 83, 417 via the methyl ester to 1-hydroxymethylfluorene 1H NMR (CDCl3): δ 4.84 ppm (CH2), 3.89 ppm (CH2). 4.1 g (21 mmol) 1-hydroxymethylfluorene dissolved in 60 ml THF was slowly added to 2.54 g PBr3 in 10 ml THF at −5° C. The orange solution was stirred for 1.5 hrs at −5° C. then stirred for 16 hrs at room temperature. This was then poured into iced water, allowed to settle and 5.1 g of 1-bromomethylfluorene was isolated on a frit as an off-white powder. 1H NMR (CDCl3): δ 4.65 ppm (CH2), 3.97 ppm (CH2).

reactant | Fluorene-1-carboxylic acid | C1(=CC=CC=2C3=CC=CC=C3CC12)C(=O)O | C14H10O2
reactant | 1-hydroxymethylfluorene | OCC1=CC=CC=2C3=CC=CC=C3CC12 | C14H12O
reactant | 1-hydroxymethylfluorene | 21 mmol, 4.1 g | OCC1=CC=CC=2C3=CC=CC=C3CC12 | C14H12O
reactant | PBr3 | 2.54 g | P(Br)(Br)Br | Br3P
reactant | water | O | H2O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-bromomethylfluorene | 5.1 g | BrCC1=CC=CC=2C3=CC=CC=C3CC12 | C14H11Br
